US06331555B1
N-4-trifluoromethlybenzy 3,5-dimethylisoxazole-4-carboxamide
P22 was made using the same conditions as described for N-trifluoromethylphenyl 3,5-dimethylisoxazole-4-carboxamide (A13), but starting with 4-trifluoromethylbenzylamine.

reactant | N-trifluoromethylphenyl 3,5-dimethylisoxazole-4-carboxamide | FC(N(C(=O)C=1C(=NOC1C)C)C1=CC=CC=C1)(F)F | C13H11F3N2O2
reactant | 4-trifluoromethylbenzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | 3,5-dimethylisoxazole-4-carboxamide | CC1=NOC(=C1C(=O)N)C | C6H8N2O2
